US08076334B2
A solution of phosphoric acid di-tert-butyl ester 3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl ester (44.0 mg, 0.067 mmol) in methylene chloride (1.0 mL, 0.067M) at 25° C. was treated with trifluoroacetic acid (0.2 mL). The reaction mixture was stirred at 25° C. for 20 min. At this time, the reaction mixture was concentrated in vacuo, azeotropically dried with benzene and concentrated from absolute ethanol followed by lyophilization from acetonitrile and water to afford phosphoric acid mono-{3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl}ester (31.4 mg, 86%) an off-white solid. Present in the product was 0.95 moles of residual ammonium from the ammonium acetate used in the supercritical fluid purification of the precursor. ES+-HRMS m/e calcd for C18H15N6O8PCl2 (M+Na+) 566.9958, found 566.9962.

reactant | phosphoric acid di-tert-butyl ester 3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl ester | 0.067 mmol, 44.0 mg | ClC1=C(OC2=NN(C(C(=C2)C(C)C)=O)COP(OC(C)(C)C)(OC(C)(C)C)=O)C(=CC(=C1)N1N=C(C(NC1=O)=O)C#N)Cl | C26H31Cl2N6O8P
reactant | trifluoroacetic acid | 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 0.067M, 1.0 mL | C(Cl)Cl | CH2Cl2
product | phosphoric acid mono-{3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl}ester | 31.4 mg, 86% | ClC1=C(OC2=NN(C(C(=C2)C(C)C)=O)COP(O)(O)=O)C(=CC(=C1)N1N=C(C(NC1=O)=O)C#N)Cl | C18H15Cl2N6O8P
